US04897418
2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal, 3,4-dipropoxybenzaldehyde and dimethyl acetylenedicarboxylate are treated in the same manner as described in Example 1-(1) & (2), whereby 1-(3,4-dipropoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene is obtained as colorless needles.

reactant | 2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal | COC(C1=C(C(=C(C(=C1)OC)OC)OC)Br)OC | C12H17BrO5
reactant | 3,4-dipropoxybenzaldehyde | C(CC)OC=1C=C(C=O)C=CC1OCCC | C13H18O3
reactant | dimethyl acetylenedicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | 1-(3,4-dipropoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene | C(CC)OC=1C=C(C=CC1OCCC)C1=C(C(=C(C2=CC(=C(C(=C12)OC)OC)OC)O)C(=O)OC)C(=O)OC | C29H34O10
